US08557984B2
[3-(3,5-Dimethyl-4-isoxazolyl)-4-(methyloxy)phenyl]amine (for a preparation see Intermediate 60, 27.4 g, 126 mmol) was dissolved in diethyl [(ethyloxy)methylidene]propanedioate (27.1 g, 126 mmol) and heated to 130° C. The solution was heated for 1 h, then cooled to room temperature and reduced to dryness in vacuo to give diethyl ({[3-(3,5-dimethyl-4-isoxazolyl)-4-(methyloxy)phenyl]amino}methylidene)propanedioate (50.1 g), which after standing overnight became as a brown crystalline solid.

reactant | [3-(3,5-Dimethyl-4-isoxazolyl)-4-(methyloxy)phenyl]amine | CC1=NOC(=C1C=1C=C(C=CC1OC)N)C | C12H14N2O2
reactant | diethyl [(ethyloxy)methylidene]propanedioate | 126 mmol, 27.1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl ({[3-(3,5-dimethyl-4-isoxazolyl)-4-(methyloxy)phenyl]amino}methylidene)propanedioate | 50.1 g | CC1=NOC(=C1C=1C=C(C=CC1OC)NC=C(C(=O)OCC)C(=O)OCC)C | C20H24N2O6
